US04547576
A mixture of 4.19 g of 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridylmethyl)-6-methoxy-1,2,3,4-tetrahydrocarbazole hydrochloride and 3.5 g of pyridine hydrochloride is stirred at 160° for 3 hours. After the usual work-up, 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridylmethyl)-6-hydroxy-1,2,3,4-tetrahydrocarbazole, Rf 0.2 (toluene/triethylamine 9:1), is obtained.

reactant | 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridylmethyl)-6-methoxy-1,2,3,4-tetrahydrocarbazole hydrochloride | 4.19 g | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CC1CCC=2NC3=CC=C(C=C3C2C1)OC
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
solvent | toluene triethylamine | C1(=CC=CC=C1)C.C(C)N(CC)CC
product | 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridylmethyl)-6-hydroxy-1,2,3,4-tetrahydrocarbazole | C1(=CC=CC=C1)C=1CCN(CC1)CC1CCC=2NC3=CC=C(C=C3C2C1)O | C24H26N2O
